US05250546
(1RS,2SR)-5-Methyl-1-phenyl-2-(3-piperidinopropylamino)hexan-1-ol methyl ether dihydrochloride
To a solution of (1RS,2SR)-5-methyl-1-phenyl-2-(3-piperidinopropylamino)hexan-1-ol (1.66 g, 5 mmol) in toluene (25 ml) was added sodium hydride (0.14 g, 6 mmol) and the mixture was refluxed for 1 hour. To the reaction mixture was added methyl tosylate (1.12 g, 6 mmol) and the resulting mixture was refluxed for further 1 hour. After being cooled, the mixture was washed twice with water and once with brine, dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by neutral alumina column chromatography (alumina: 40 g, eluent: chloroform) to give 1.1 g of oily matter. To a solution of the matter in acetone (20 ml) was added concentrated hydrochloric acid (0.1 ml) and the mixture was concentrated under reduced pressure. The residue was recrystallized from acetone (10 ml)-ethanol (0.2 ml) to obtain 0.45 g of the title compound as white crystals (yield: 21%).

reactant | (1RS,2SR)-5-methyl-1-phenyl-2-(3-piperidinopropylamino)hexan-1-ol | 5 mmol, 1.66 g | CC(CCC(C(O)C1=CC=CC=C1)NCCCN1CCCCC1)C | C21H36N2O
reactant | sodium hydride | 6 mmol, 0.14 g | [H-].[Na+]
reactant | methyl tosylate | 6 mmol, 1.12 g | S(=O)(=O)(OC)C1=CC=C(C)C=C1 | C8H10O3S
reactant | hydrochloric acid | 0.1 ml | Cl | ClH
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | (1RS,2SR)-5-Methyl-1-phenyl-2-(3-piperidinopropylamino)hexan-1-ol methyl ether dihydrochloride | 0.45 g, yield: 21% | Cl.Cl.COC(C(CCC(C)C)NCCCN1CCCCC1)C1=CC=CC=C1 | InChI=1S/C22H38N2O.2ClH/c1-19(2)13-14-21(22(25-3)20-11-6-4-7-12-20)23-15-10-18-24-16-8-5-9-17-24;;/h4,6-7,11-12,19,21-23H,5,8-10,13-18H2,1-3H3;2*1H
